Name:  ___                         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I went to the counseling clinic as my b.f. who has many OCD
problems suggested I contact them for medications have been
having headaches..lately the weather changes and I'm from
___ and its always like summer there all the time. I've
been feeling more tired lately since ___. because the weather is
gloomy.I said sometimes I feel depressed its normal to have
emotional fluctuations".
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is ___ yo ___ graduate student with hx of depression
and SIB {cutting wrist with razors and keys}since age ___ sent
from ___ counseling where she was seen for the first time today
for an intake.
The patient reported to the ___ that she first became
depressed at age ___ with suicidal ideation and began cutting
herself superficially with razors and continues to cut to this
day.She recently has run out of room on her L wrist so has been
cutting her R as well.She cuts mostly when she is home in her 
apt
but when she becomes overwhelmed in the library she will go into
the bathroom and use keys to self injure.
She reported that the Church when she was ___ {family is 
___
and per patient very active in the Church}suggested to her
parents that she should see a therapist because she had said she
"wanted to die".However she told Ms. ___ that she refused at
that time but today she told this writer she saw a counselor for
3 months and talks with a "Church doctor" when she is home in
___ the time when she was first became depressed she
said it was peer pressure and environmental stressors.
The patient reports that she has felt down since mid ___ for
"no reason" however in the ED she said it was the change in the
weather.She said that it is always warm in ___ and has
difficult with the cold climate darker days.
She told ___ that she "realized persistent low energy and
depressed mood" but denied this in ED and said ."I think she
misunderstood because of my accent lately when the weather
changes I feel more tired since ___. weather becomes gloomy.I
only feel sad for 4 hours then I feel fine."
The patient reported to ___ that she usually feels ok in 
he
morning and around 2pm will feel very lost and will try to go to
the library.She reported that she is unable to concentrate will
"stare at the (computer} screen and is unable to complete her
academic work.She noted that during these times she will self
injure in the bathroom and will also look up suicide on line and
read suicide notes others have written and relate to how they 
are
feeling.
The patient's grades have reportedly not been effected but she
has not been attending classes but professors have ___
understanding.Per BU she intends to attend class, will travel on
the T but is unable to make herself get off at the stop and will
travel all the way to ___.She will then turn 
around
with intention of attending classes and will be unable to get 
off
the T and will instead go home.
She reported that she drinks a bottle of wine daily, beginning @
8am.Initially feels "more energy and motivated then more down."
When she is upset wants to stay home and drink and feels "really
devastated and just drinks and cuts." She acknowledged that her
suicidal thoughts are worse during alcohol use and "wants to
immerse myself in water in the bathtub" and has had thoughts of
drowning or hanging herself.
Upon evalaution in the ED the patient presented as anxious, 
teary
and said "I don't feel suicidal I only drink wine at dinner"
denies she drank daily. She denied that she is actively cutting
and said not since age ___ and denied that she had told Ms. 
___
that she drank daily, or had thoughts of drowing or hanging
herself insisted that she "misunderstood me."
She said that sought treatment today "to get a prescription for
my headaches." Ms ___ said the patient did not mention that
she had a headache.
Patient admits "sometimes" she feels depressed with low energy
and "emotions and episodes of feeling sad about 4 hours a day"
when she feels overwhelmed by her "heavy caseload." She said 
that
she will feel "tired and emotionally down" which is not unusual
this time of year with the change of season. "I get low b/o the
climate..I usually get headaches."
She said "now I feel relaxed I have a good experience with my
b.f. and I will be going home to ___ for ___ to be
with my family." 
She currently is denies sleep or appetite disturbances, denies
si, denies that she feels depressed and said when she does "
"reads a book. or calls her parents." She said her parents told
her that when she comes home she can see a psychiatrist but did
not say why.
She denies that she drinks daily, only at night with dinner, 
wine
or champagne and said that alcohol had no relationship to how 
she
feels.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Depression at age ___ first began cutting with razors and parents
encouraged to see a psychiatrist but patient refused per BU, in
the ED said that she aw a counselor for 3 months.
Hospitalizations:none
Current treaters and treatment: none , the patient was seen on
intake today @ ___ Behavioral ___ by ___
PMH,CNS,BC ( ___
Medication and ECT trials:none
Self-injury:hx of self cutting wrists with razors and keys since
age ___ and contiunes
Harm to others:denies
Access to weapons:denies

PAST MEDICAL HISTORY:
* PCP in ___
* NAD
* multiple healed cuts on both wrists

 
Social History:
The patient was born and raised in ___ and as one younger
sister age ___ who lives with her parents in ___ father
is the ___ of an ___ and mother is a
___.Denies hx of abuse.
Age ___ first became depressed and starting ___.
She came to ___ age ___ to attend ___ and
transferred to ___ and graduated with a degree in
Anthropology is now currently a graduate student ___, majoring
in ___.
She has a boyfriend, who is ___ and ___ years her senior 
and is in the same program, is an ___ and is planning to
return to ___ after ___.
She currently lives in her own ___. in ___.

alcohol:alcohol on a daily basis{bottle of wine can begin @ 8am
but usually starts @3pm, denies blackouts or seizures will drink
when she goes "clubbing"
illicits: denies
tob: 5 cigs a day recent inc from 1 a day
caffeine:tea and occ. coffee
 
Family History:
denies history of psychiatric illnesses. 
 
Physical Exam:
MENTAL STATUS EXAM:
Appearance: thin female, dressed in hospital ___, dyed hair,
heavy eye-liner, well-groomed, appears stated age
Behavior: intense eye contact, some slight PMA
Speech: slightly pressure rate, normal tone/prosody, no
slurring/dysarthria
Mood: "I'm really good "
Affect: Largely Mood Congruent, initially euphoric, full and
reactive but became labile and dysphoric upon learning she could
not leave
Thought Process: linear
Thought Content: no prominent delusions, SI/HI, slightly
grandiose and guarded/evasive re: sx
Perceptions: denies Auditory/Visual/Somatic hallucinations
Insight/Judgment: both quite impaired

COGNITIVE EXAM:
--orientation: alert to person, place, time, situation
--attention/concentration: MOYB appropriate
--memory (ball, chair, purple): ___ registration, ___ at 5
minutes. 
--calculations: quarters in $1.50 - 6
--language: accented fluent ___
--similarities/analogies: apple/orange = fruit
 
PE: T: 98.3 HR 76 BP: 125/87 RR: 16 O2: 100% on RA
General: thin female, initially in no distress.
HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
Neck: Supple, trachea midline. No adenopathy.
Back: No significant deformity, no focal tenderness.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm; no murmurs/rubs/gallops
Abdomen: Soft, nontender, nondistended; no masses or
organomegaly. +BS. Patient has two ___ inch-long horizontal
keloids across her abdomen.
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash. Multiple healed but scabbed
erythematous superficial lacerations on l. and r. forearm
Neurological:
  *Cranial Nerves-
       I: Not tested
       II: Pupils equal and symmetric
      III, IV, VI: Extraocular movements intact bilaterally
without nystagmus.
      V, VII: Facial strength and sensation intact & symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. Strength full power
___ throughout. 
Gait: balanced, non-ataxic, good initiation
  *Sensation- Intact to light touch
  *Coordination- Normal on finger-nose-finger
 
Pertinent Results:
___ 01:52PM URINE  UCG-NEGATIVE
___ 01:52PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 01:52PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:52PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 01:52PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 11:43AM   GLUCOSE-84 UREA N-10 CREAT-0.7 SODIUM-139 
POTASSIUM-3.8 CHLORIDE-101 TOTAL CO2-25 ANION GAP-17
___ 11:43AM   GLUCOSE-84 UREA N-10 CREAT-0.7 SODIUM-139 
POTASSIUM-3.8 CHLORIDE-101 TOTAL CO2-25 ANION GAP-17
___ 11:43AM   ASA-NEG ETHANOL-46* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:43AM   ASA-NEG ETHANOL-46* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:43AM   WBC-5.6 RBC-4.23 HGB-13.7 HCT-42.1 MCV-100* 
MCH-32.5* MCHC-32.6 RDW-13.2
___ 11:43AM   NEUTS-53.4 ___ MONOS-7.7 EOS-1.6 
BASOS-1.1
___ 11:43AM   PLT COUNT-___. Legal: ___
2. Safety: Ms. ___ was admitted with increased depressive 
symptoms increased anxiety symptoms and concern of recent 
cutting; however, she reflected that she had not been cutting 
since ___ of this year in an isolated incident and that she 
was not actively suicidal. She was felt to be safe for 15 minute 
checks on the locked inpatient psychiatric unit. The patient 
remained in good behavioral control throughout this 
hospitalization and did not require physical or chemical 
restraint.

3. Psychiatry:
# Depressive and anxiety disorder:
On admission, Ms. ___ stated that she had exaggerated her 
symptoms in an effort to receive care, specifically to be 
started on medication and receive counseling. She stated she had 
sought care in ___ with a physician who told her that she 
needed to pray more, and thus she feared being turned away 
without care if she did not make her symptoms seem more serious. 
She described recently daily sadness, decreased energy, loss of 
interests and difficulty focusing as focal problems and cited 
lack of sunlight as a probable cause. Nonetheless she remains 
social, is in a safe and stable and pleasurable romantic 
relationship, has functioned well in school and is looking 
forward to ___ break with her family in ___ and 
graduation in the ___ with plans to become involved in her 
family's business. She described frequent occasions with alcohol 
use, but denied that this should be considered a problem. 

She was interested in initiating an antidepressant and was 
started on citalopram 20 mg daily. Benefits were discussed 
including reduced depressive and anxiety symptoms, and 
risks/side effects were discussed including black box warning of 
increased thoughts of suicide and activation, which can be 
mitigated by close monitoring, as well as, GI upset, mild weight 
gain, jitteriness/EPS, HA and sexual side effects. She was also 
provided with patient information on this medication to review. 
Over three days, she denied any issues with citalopram and felt 
that her mood had improved. 

___, ___, with the patient's permission spoke with 
Ms. ___ former roommate and close friend of ___ years who visited 
the pt in the hospital and stated that she had no concerns for 
the patient's safety. 

# Borderline Personality traits:
On admission, Ms. ___ disclosed a history of cutting her arms 
superficially as a means to reduce stress, which she says she 
had not done since ___ in the context of a break up. She 
showed the scars on her arms which all looked remote and well 
healed. Ms. ___ was provided with 2 chapters of a DBT manual and 
it was recommended that she seek therapy focusing on DBT skills. 


On discharge, mood was significantly improved and she reflected 
on the admission as being positive, MSE was pertinent for future 
orientation, lack of SI citing numerous positive elements in her 
life, relationship and for her future.

# Risk Assessment: 
Ms ___ is currently at low risk for self harm.

At admission Ms. ___ was felt to be at moderate to elevated risk 
for self harm given chronic risk factors of history of self 
harm, lack of family support regarding mental health, 
discrepancy of reports by providers and by pt, age, and 
modifiable risk factors of reports of increased alcohol intake 
(counseled regarding need to decrease alcohol intake 
particularly with medications which pt recognized and said she 
would monitor), reported SI with plan (pt denied current SI and 
reflected over hospitalization regarding numerous reasons to 
live and hope for the future), poor insight (psychoeducation 
regarding illness and treatments), lack of psychiatric treaters 
(provided with ___ appt with ___ mental health and two 
additional options for psychiatry and therapy and pt stated she 
was very motivated to seek treaters). 

Protective factors include good behavioral control, female, no 
admitted past SA and is denying most psychiatric symptoms, lack 
of family history of mental illness or suicides and help seeking 
behavior. 

4. Medicine: No active issues

5. Disposition: Home with ___ appt at ___ who 
will help Ms. ___ to identify a psychiatrist and therapist as 
well as with two additional options for identifying treaters 
through the ___ system ___ at ___.

6. Prognosis: Good due to the fact that she was initiated on 
medication, provided with options for treaters for which she is 
highly motivated and a lack of prior suicide attempts. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Nicotine Patch 7 mg TD DAILY 
2. Citalopram 20 mg PO DAILY 
RX *citalopram 20 mg 1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: r/o Depressive d/o NOS, r/o anxiety NOS
Axis II: Borderline traits
Axis III: none

 
Discharge Condition:
 *VS: afebrile BP: 134/98 HR: 90 resp: 16 O2 sat: 100% RA
  Neurological:
    *station and gait: normal
    *tone and strength: normal
    cranial nerves: not tested
    abnormal movements: none observed, no PMR/PMA
    frontal release: not tested
*Appearance: thin woman appearing stated age, wearing hospital
clothes
*Behavior: cooperative with evaluation, fair eye contact,
pleasant, NAD
*Mood and Affect: 'happy,' anxious appearing, euthymic,
incongruent, appropriate to situation
*Thought process: logical, linear and goal oriented
*Thought Content: focused on readiness to go home. No obvious 
delusions or paranoia present.
Denies AVH, denies HI, denies SI stating she has a lot to live
for
*Judgment and Insight: fair/poor to fair

  Cognition:
*Attention, *orientation, and executive function: alert and
oriented
*Speech: elevated rate. normal rhythm, tone and volume.
Interruptable. 
*Language: fluent

 
Discharge Instructions:
Ms. ___, as you know you were admitted to the hospital due to 
increased depression, anxiety, alcohol use and statements 
reflecting thoughts of suicide. You were started on citalopram 
for your depression and anxiety, which you have been tolerating 
well. This medication may need to be increased in the future, 
which your psychiatrist will help with. Please follow up with 
all of your appointments and continue to take your medications 
as prescribed. Please follow up with your psychiatrist or PCP 
regarding any side effects you might experience. 

It was a pleasure working with you. 
 
Followup Instructions:
___